US05041673
α, α-Diethoxymethyl-β-tert-butoxycarbonylamino-3,5-dimethoxybenzene propanol
α,α-diethoxymethyl-β-amino-3,5-dimethoxybenzenepropanol (2.38 g) was reacted with di-tert-butyl-dicarbonate (1.82 g) in methanol (30 ml) for 1 hour at room temperature. The solvent was evaporated under vacuum and the residue was purified by chromatography on silica gel [130 g, elution with ethyl acetate:cyclohexane, 1:9-0.7 1), 1:4 (1 1) and 3:7(1 1)]. Two isomers of the title compound were isolated, isomer A as an oil (0.98 g) and isomer B (0.53 g) that could be crystallized from pentane, m.p. 73.5°-75° C. RF isomer A=0.33, RF isomer B=0.20 (silica gel, ethyl acetate: cyclohexane, 3:7).

reactant | α,α-diethoxymethyl-β-amino-3,5-dimethoxybenzenepropanol | 2.38 g | C(C)OCC(C(CC1=CC(=CC(=C1)OC)OC)N)(O)COCC | C17H29NO5
reactant | di-tert-butyl-dicarbonate | 1.82 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 30 ml | CO | CH4O
product | α, α-Diethoxymethyl-β-tert-butoxycarbonylamino-3,5-dimethoxybenzene propanol | C(C)OCC(C(CC1=CC(=CC(=C1)OC)OC)NC(=O)OC(C)(C)C)(O)COCC | C22H37NO7
